US05026722
7-Fluoro-1-methylindole-3-carboxaldehyde
7-Fluoroindole-3-carboxaldehyde (2.5 g) in dry THF (20 ml) was added to a cold (0°) suspension of sodium hydride (73.2% dispersion in oil; 652 mg) in dry THF (20 ml) under nitrogen and the mixture was stirred for 1h. Methyl iodide (2.5 ml) was added, and the resulting mixture was stirred for 2h at 0°. The mixture was then poured into saturated brine solution (300 ml) and extracted with ether (2×300 ml). The combined, dried organic extracts were evaporated in vacuo to give the title compound (2.66 g), m.p. 92°-94°.

reactant | 7-Fluoroindole-3-carboxaldehyde | 2.5 g | FC=1C=CC=C2C(=CNC12)C=O | C9H6FNO
reactant | sodium hydride | 652 mg | [H-].[Na+]
reactant | Methyl iodide | 2.5 ml | CI | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | brine | 300 ml | [Cl-].[Na+].O
product | 7-Fluoro-1-methylindole-3-carboxaldehyde | 2.66 g | FC=1C=CC=C2C(=CN(C12)C)C=O | C10H8FNO
